US06017923
Scheme D, step d: 4-Hydroxy-2-benzoyloxymethylbut-1-ene
Combine 4-(p-methoxybenzyloxy)-2-benzoyloxymethylbut-1-ene (1.08 g, 3.30 mmol) with methylene chloride (10 mL) and water (0.5 mL) and stir rapidly. Add 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (0.826 gm, 3.64 mmol). After 0.25 hours filter the reaction mixture and rinse the filter cake with methylene chloride (20 mL) and concentrate the filtrate in vacuo. Chromatograph on silica gel eluting with 1/9 ethyl acetate/hexane to give the title compound as an oil. Rf =0.28; silica gel, 1/9 ethyl acetate/hexane.

reactant | 4-(p-methoxybenzyloxy)-2-benzoyloxymethylbut-1-ene | 3.30 mmol, 1.08 g | COC1=CC=C(COCCC(=C)COC(C2=CC=CC=C2)=O)C=C1 | C20H22O4
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 3.64 mmol, 0.826 gm | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | water | 0.5 mL | O | H2O
product | 4-Hydroxy-2-benzoyloxymethylbut-1-ene | OCCC(=C)COC(C1=CC=CC=C1)=O | C12H14O3
